US07524871B2
Step 3: Synthesis of (±)-N-(2-amino-4,5,6,7-tetrahydro-1,3 -benzothiazol-6-yl)-2-[6-methyl-2-oxo-3-(phenethylamino)-1(2H) pyridinyl]acetamide
The title compound was prepared from 2-[6-methyl-2-oxo-3 -(phenethylamino)-1(2H)-pyridinyl]acetic acid and 4,5,6,7-tetrahydro-1,3-benzothiazol-2,6-diamine dihydrobromide using the procedure of EXAMPLE 1 (STEP 6), and was obtained as a yellow crystalline solid compound.

reactant | 2-[6-methyl-2-oxo-3 -(phenethylamino)-1(2H)-pyridinyl]acetic acid | CC1=CC=C(C(N1CC(=O)O)=O)NCCC1=CC=CC=C1 | C16H18N2O3
reactant | 4,5,6,7-tetrahydro-1,3-benzothiazol-2,6-diamine dihydrobromide | Br.Br.S1C(=NC2=C1CC(CC2)N)N
product | (±)-N-(2-amino-4,5,6,7-tetrahydro-1,3 -benzothiazol-6-yl)-2-[6-methyl-2-oxo-3-(phenethylamino)-1(2H) pyridinyl]acetamide | NC=1SC2=C(N1)CCC(C2)NC(CN2C(C(=CC=C2C)NCCC2=CC=CC=C2)=O)=O | C23H27N5O2S
